US07199139B2
2-[[1-(4′-Fluoro-4-biphenylyl)ethylidene]aminoxy]ethyl methanesulfonate
Triethylamine (2.83 ml) was added dropwise at 0° C. to a solution of methanesulfonyl chloride (1.15 ml) and 2-[[1-(4′-fluoro-4-biphenylyl)ethylidene]aminoxy]ethanol (3.70 g) obtained from Reference example 26(a) in dichloromethane (40 ml), and the reaction mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were filtered off and washed with hexane and isopropyl ether to afford the target compound (4.70 g) as colorless crystals.

reactant | Triethylamine | 2.83 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.15 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[[1-(4′-fluoro-4-biphenylyl)ethylidene]aminoxy]ethanol | 3.70 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=NOCCO | C16H16FNO2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-[[1-(4′-Fluoro-4-biphenylyl)ethylidene]aminoxy]ethyl methanesulfonate | 4.70 g | CS(=O)(=O)OCCON=C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C17H18FNO4S
